US08735414B2
A mixture of 6-(6-bromo-3-cyano-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-tert-butylpyridine-3-sulfonamide and 6-(6-bromo-3-chloro-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-tert-butylpyridine-3-sulfonamide (84 mg, 0.156 mmol), Pd(OAc)2 (7.6 mg, 0.034 mmol), 1,3-bis(diphenylphosphino)propane (31 mg, 0.075 mmol), K2CO3 (0.19 g, 1.36 mmol), butyl vinyl ether (0.73 mL, 5.66 mmol) in DMF (3.0 mL) and water (0.35 mL) was stirred at 120° C. overnight under N2 atmosphere. The mixture was then acidified to pH ˜1 with 1 N HCl, stirred at room temperature for 1 hr, extracted with ethyl acetate followed by drying with Na2SO4, evaporation and purification by flash chromatography with 5 to 20% ethyl acetate in CH2Cl2 to give N-tert-butyl-6-(3,6-diacetyl-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)pyridine-3-sulfonamide (58 mg, 73%). MS m/z 510.1 M+H+; 1H NMR (500 MHz, acetone-d6): δ 9.07 (1H, d, J=2.2 Hz), 8.77 (1H, d, J=6.2 Hz), 8.58 (2H, d, 4.9 Hz), 8.28 (1H, dd, J=8.2, 2.2 Hz), 8.12 (1H, d, J=10.2 Hz), 7.78 (1H, dd, J=8.2, 0.7 Hz), 7.21 (1H, t, J=4.9 Hz), 4.80 (1H, br s), 2.75 (3H, d, J=5.4 Hz), 2.21 (3H, s), 1.25 (9H, s).

reactant | 6-(6-bromo-3-cyano-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-tert-butylpyridine-3-sulfonamide | BrC1=C(C=C2C(=C(N(C2=C1)C1=NC=CC=N1)C1=CC=C(C=N1)S(=O)(=O)NC(C)(C)C)C#N)F | C22H18BrFN6O2S
reactant | 6-(6-bromo-3-chloro-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)-N-tert-butylpyridine-3-sulfonamide | 0.156 mmol, 84 mg | BrC1=C(C=C2C(=C(N(C2=C1)C1=NC=CC=N1)C1=CC=C(C=N1)S(=O)(=O)NC(C)(C)C)Cl)F | C21H18BrClFN5O2S
reactant | 1,3-bis(diphenylphosphino)propane | 0.075 mmol, 31 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | K2CO3 | 1.36 mmol, 0.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | butyl vinyl ether | 5.66 mmol, 0.73 mL | C(=C)OCCCC | C6H12O
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | 0.35 mL | O | H2O
catalyst | Pd(OAc)2 | 0.034 mmol, 7.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-tert-butyl-6-(3,6-diacetyl-5-fluoro-1-(pyrimidin-2-yl)-1H-indol-2-yl)pyridine-3-sulfonamide | 58 mg, 73% | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1C(C)=O)F)C(C)=O)C1=NC=CC=N1 | C25H24FN5O4S
